US08426420B2
(iv) 4-[(S)-4-tert-Butoxycarbonyl-2-({5-[(S)-2-((S)-2-carboxy-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 2.177 g 4-[(S)-2-({5-[(S)-2-((S)-2-Benzyloxycarbonyl-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-tert-butoxycarbonyl-butyryl]-piperazine-1-carboxylic acid ethyl ester in 50 ml ethyl acetate were added under argon 0.5 g Pd/C (10%) and the suspension was stirred under an atmosphere of hydrogen (1 bar) for 24 h. The suspension was filtered over a plug of Celite® and washed with ethyl acetate. The crude product obtained after evaporation of the solvent was used in the subsequent reaction. Yield: 1.784 g colorless foam.

reactant | 4-[(S)-2-({5-[(S)-2-((S)-2-Benzyloxycarbonyl-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-tert-butoxycarbonyl-butyryl]-piperazine-1-carboxylic acid ethyl ester | 2.177 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)O[C@H](C(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)C)C1=CC=CC=C1)=O | C41H52N6O10
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-[(S)-4-tert-Butoxycarbonyl-2-({5-[(S)-2-((S)-2-carboxy-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)O[C@H](C(=O)N1[C@@H](CCC1)C(=O)O)C)C1=CC=CC=C1)=O | C34H46N6O10
